US08003649B2
A mixture of 1-[1-(4-fluorophenyl)-1-methyl-ethyl]piperazine (obtained as described in J. Med. Chem. 2007, 50, 3528) and 6-chloro-3-(difluoromethyl)-[1,2,4]-triazolo[4,3-b]pyridazine was allowed to react by an analogous method to Example 269 to give 3-(difluoromethyl)-6-[4-[1-(4-fluorophenyl)-1-methylethyl]piperazin-1-yl][1,2,4]triazolo[4,3-b]pyridazine in 62% yield.

reactant | 1-[1-(4-fluorophenyl)-1-methyl-ethyl]piperazine | FC1=CC=C(C=C1)C(C)(C)N1CCNCC1 | C13H19FN2
reactant | 6-chloro-3-(difluoromethyl)-[1,2,4]-triazolo[4,3-b]pyridazine | ClC=1C=CC=2N(N1)C(=NN2)C(F)F | C6H3ClF2N4
product | 3-(difluoromethyl)-6-[4-[1-(4-fluorophenyl)-1-methylethyl]piperazin-1-yl][1,2,4]triazolo[4,3-b]pyridazine | 62% yield | FC(C1=NN=C2N1N=C(C=C2)N2CCN(CC2)C(C)(C)C2=CC=C(C=C2)F)F | C19H21F3N6
